US07795445B2
d) tert-Butyl {3-[6-benzoylamino-1-(3-methylbut-2-enyl)-1H-benzimidazol-2-ylsulfanyl]propyl}carbamate
24 mg (0.07 mmol) of cesium carbonate were added to a solution of 58 mg of tert-butyl {3-[6-amino-1-(3-methylbut-2-enyl)-1H-benzimidazol-2-ylsulfanyl]propyl}carbamate (obtained analogously to examples 1a-c) in 5 ml of dimethylformamide, and the mixture was stirred at room temperature for 30 minutes. Subsequently, 17 μl (0.15 mmol) of benzoyl bromide were added and the mixture was stirred at room temperature for 20 hours. The reaction mixture was concentrated under reduced pressure and partitioned between water and dichloromethane. The organic phase was dried, concentrated under reduced pressure and purified by means of preparative HPLC (acetonitrile/water+0.5% trifluoroacetic acid, gradient: 20/80 to 100/0). 33 mg (44%) of the desired product were obtained.

reactant | cesium carbonate | 0.07 mmol, 24 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl {3-[6-amino-1-(3-methylbut-2-enyl)-1H-benzimidazol-2-ylsulfanyl]propyl}carbamate | 58 mg | NC=1C=CC2=C(N(C(=N2)SCCCNC(OC(C)(C)C)=O)CC=C(C)C)C1 | C20H30N4O2S
reactant | benzoyl bromide | 0.15 mmol, 17 μl | C(C1=CC=CC=C1)(=O)Br | C7H5BrO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | tert-Butyl {3-[6-benzoylamino-1-(3-methylbut-2-enyl)-1H-benzimidazol-2-ylsulfanyl]propyl}carbamate | 33 mg, 44% | C(C1=CC=CC=C1)(=O)NC=1C=CC2=C(N(C(=N2)SCCCNC(OC(C)(C)C)=O)CC=C(C)C)C1 | C27H34N4O3S
